Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1].[C:2]#[C:3][O:4][C:5][O:6][H:7]>>[C:1]#[C:2][C:3][O:4][C:5][O:6][H:7],-6.431968340449999
[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-1.06147587787
[O:1][O:2][C:3][C:4]([H:5])([H:6])[H:7]>>[H:7].[O:1][O:2][C:3][C:4]([H:5])[H:6],2.31979073464
[H:1][C:2].[O:3]=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-2.19136643155
[H:1][C:2]([H:3])([H:4])[C:11]([C:10]([C:7]=[C:5]([H:6])[H:13])([H:8])[H:9])[H:12]>>[H:1][C:2]([H:3])([H:4])[C:5]1([H:6])[C:7]([H:8])([H:9])[C:10][C:11]1([H:12])[H:13],0.10213049568
[C:11]([H:12])[H:13].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-7.69305493377
[H:1][C:2][O:3][C:4]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:5][H:6]>>[H:1][C:2][O:3][C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.374344186980001
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-1.17724648922
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1],5.968391056869999
[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],1.51526388512
[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[C:7](=[O:8])[H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9],-3.17559713743
[C:3]#[C:4][H:5].[O:1]=[C:2][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-5.16388060907
[H:1][O:2]/[C:3](=[C:4]/[C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])[H:12]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8].[O:9]=[C:10]([H:11])[H:12],-1.7075985163799998
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][O:10]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][O:10][C:11]([H:12])([H:13])[H:14],-2.9684669708
[H:1][C:2]([H:3])=[C:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.82537193062
[O:1][C@:2]1([H:3])[O:4][C@@:5]1([H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]([H:3])[C@:5]([O:4])([H:6])[C:7]([H:8])([H:9])[H:10],-0.134938919839
[C:1](=[C:2]=[C:7]([H:8])[C:9]([H:10])[H:11])([H:5])[H:6].[C:3]#[C:4]>>[C:1]#[C:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-5.46000987561
[H:1][C:2]#[C:3][C:4]1[C:5]([H:6])=[C:7]([H:8])[C:9]1([H:10])[H:11]>>[H:1][C:2][C:3]#[C:7][C:9]([C:4](=[C:5][H:6])[H:8])([H:10])[H:11],3.81141750266
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:7][C:8][C:9]([H:10])([H:11])[H:12].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],-2.89637084038
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10]>>[C:5]([H:6])([H:7])[O:8][C:9][H:10].[O:1][C:2]#[C:3][H:4],3.96075179555
[H:12].[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8](=[C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-2.13555349511
[C:9]([H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[H:8]>>[O:1][C@:2]([H:3])([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-0.3529448434009999
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:5]([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2]([H:3])=[C:4],5.536498825090001
[C:1]#[C:2][O:3][C:4].[H:5]>>[C:1]#[C:2][O:3][C:4][H:5],-2.20602730884
[H:1][C:2](=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:2](#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1],3.80847647391
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[C:12]([H:13])([H:14])[H:15],1.94831915344
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8].[O:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8][O:9][H:10],-5.69458303357
[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]=[O:3],1.57679825051
[C:1]#[C:2][C:3]([H:4])=[O:5].[C:6]=[C:7]([H:8])[H:9]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]=[C:7]([H:8])[H:9],-2.38460114104
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@:7]1([H:8])[C:9][C:10]1[H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]#[C:10][H:11],-1.60636989149
